US05962710
A 10N sodium hydroxide solution of (4.4 mL, 44.0 mmol, 1.18 eq), 8-aminocaprylic acid (5.93 g, 37.2 mmol, 1.00 eq), sodium bicarbonate (0.88 g, 10.4 mmol, 0.28 eq) and water (5 mL) were added to a 250 mL round bottom flask equipped with a magnetic stir bar and an addition funnel. The white cloudy mixture was treated with a solution of oligosalicylate (5.20 g, 42.9 mmol 1.15 eq) and dioxane (20 mL), added over five minutes. The addition funnel was replaced with a condenser, and the reaction mixture was heated to 90 degrees C. for 3 hours (at which time the reaction was determined to have finished, by HPLC). The clear orange reaction mixture was cooled to 40 degrees C., filtered and acidified to pH=1 with 3% (by vol.) aqueous hydrochloric acid. All of the dioxane and some of the water were stripped (60 degrees C., 50 mm). The solid (which precipitated from solution during stripping) was isolated by filtration while still warm. The light pink solid was recrystallized from 50 mL of 65% ethanol-water. The solid was recovered by filtration and was dried over 18 hours in a 50 degrees C. vacuum oven. The N-(salicyloyl)-8-aminocaprylic acid was isolated as a white solid (5.35 g, 51%).

reactant | sodium hydroxide | 10N | [OH-].[Na+]
reactant | 8-aminocaprylic acid | 37.2 mmol, 5.93 g, 1.00 eq | NCCCCCCCC(=O)O | C8H17NO2
reactant | sodium bicarbonate | 10.4 mmol, 0.88 g, 0.28 eq | C([O-])(O)=O.[Na+]
reactant | water | 5 mL | O | H2O
reactant | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N-(salicyloyl)-8-aminocaprylic acid | C(C=1C(O)=CC=CC1)(=O)NCCCCCCCC(=O)O | C15H21NO4
